US04316932
16.4 g (0.2 mol) of anhydrous sodium acetate were added to 31.5 g (0.1 mol) of 1,1,1,2-tetrachloro-3-(1,2,4-triazol-1-yl)-5,5-dimethyl-hexan-4-one in 150 ml of glacial acetic acid. The mixture was stirred at room temperature overnight and then heated to 40° C. for about 4 hours. The reaction mixture was then added to 1,000 ml of water and extracted twice with 250 ml of chloroform each time. The combined organic phases were dried over sodium sulphate and concentrated by distilling off the solvent in vacuo. The solid residue was recrystallized from ethanol and rinsed with a little hexane. 27.8 g (77.8% of theory) of 1,1,1-trichloro-2-acetoxy-3-(1,2,4-triazol-1-yl)-5,5-dimethyl-hexan-4-one were obtained as a diastereomer mixture of melting point 115°-119° C.

reactant | sodium acetate | 0.2 mol, 16.4 g | C(C)(=O)[O-].[Na+]
reactant | 1,1,1,2-tetrachloro-3-(1,2,4-triazol-1-yl)-5,5-dimethyl-hexan-4-one | 0.1 mol, 31.5 g | ClC(C(C(C(C(C)(C)C)=O)N1N=CN=C1)Cl)(Cl)Cl | C10H13Cl4N3O
reactant | water | 1,000 ml | O | H2O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 1,1,1-trichloro-2-acetoxy-3-(1,2,4-triazol-1-yl)-5,5-dimethyl-hexan-4-one | 27.8 g, 77.8% | ClC(C(C(C(C(C)(C)C)=O)N1N=CN=C1)OC(C)=O)(Cl)Cl | C12H16Cl3N3O3
